US08471005B2
2-[4-(4-{7-[1-(2-Cyano-ethyl)-1H-pyrazol-4-yl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide
2-{4-[4-(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-phenyl]-piperidin-1-yl}-acetamide (111 mg, 0.259 mmol) and 3-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile (128 mg, 0.518 mmol) were reacted in an analogous manner to Example 881A. The resulting crude product was purified by ISCO chromatography (amine capped silica gel) with a gradient of 50-100% EtOAc in hexanes-30% MeOH in EtOAc (41 mg, 34%). LCMS=470.0 (M+H), HPLC rt=1.825 min, 95% purity. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.32 (s, 1H), 8.89 (s, 1H), 8.54 (s, 1H), 8.28 (s, 1H), 7.66 (d, J=8.5 Hz, 2H), 7.26 (d, J=8.5 Hz, 2H), 7.22 (bs, 1H), 7.14 (bs, 1H), 7.07 (d, J=4.3 Hz, 1H), 6.91 (d, J=4.3 Hz, 1H), 4.48 (t, J=6.4 Hz, 2H), 3.16 (t, J=6.4 Hz, 2H), 2.92 (d, J=10.5 Hz, 2H), 2.88 (s, 2H), 2.47-2.44 (m, 1H), 2.18-2.13 (m, 2H), 1.76-1.74 (m, 4H).

reactant | 2-{4-[4-(7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino)-phenyl]-piperidin-1-yl}-acetamide | 0.259 mmol, 111 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C19H21BrN6O
reactant | 3-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazol-1-yl]-propionitrile | 0.518 mmol, 128 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)CCC#N)C | C12H18BN3O2
product | 2-[4-(4-{7-[1-(2-Cyano-ethyl)-1H-pyrazol-4-yl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-phenyl)-piperidin-1-yl]-acetamide | C(#N)CCN1N=CC(=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C25H27N9O
